US08138377B2
A. Synthesis of 3-naphthalen-2-yl-cyclopent-2-enone
A solution of 2-bromonapthalene (8.03 g, 38.8 mmol) in anhydrous tetrahydrofuran (200 mL) at −78° C. was treated with a solution of n-butyllithium (1.6 M in hexane; 26.9 mL, 43.0 mmol, 1.1 eq.) such that the reaction temperature remained at −78° C. After 15 min, a solution of 3-methoxy-2-cyclopenten-1-one (5.0 g, 44.6 mmol, 1.1 eq.) in anhydrous tetrahydrofuran (50 mL) was added such that the reaction temperature remained below −78° C. The reaction was warmed to −20° C. over 2 h, quenched with a solution of 1N HCl (100 mL) and concentrated in vacuo to remove tetrahydrofuran. A solution of 1N HCl (100 mL) was added, stirred for 30 min and extracted with ethylacetate (3×100 mL). The combined organic extracts were washed with saturated aqueous sodium hydrogen carbonate (100 mL), brine (100 mL), dried over magnesium sulphate, filtered and concentrated in vacuo. The residue was purified by silica gel chromatography using 3:7 ethyl acetate/petrol as the eluting solvent to afford (2.77 g, 28%) as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 2.63-2.66 (2H, m, CH2), 3.17-3.20 (2H, m, CH2), 6.70 (1H, t, J 1.6 Hz, CH), 7.53-7.59 (2H, m, ArH), 7.75 (1H, dd, J 1.6, 8.5 Hz, ArH), 7.85-7.93 (3H, m, ArH), 8.12 (1H, s, ArH).

reactant | 2-bromonapthalene | 38.8 mmol, 8.03 g | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | n-butyllithium | 43.0 mmol, 1.6 M, 26.9 mL, 1.1 eq. | C(CCC)[Li]
reactant | 3-methoxy-2-cyclopenten-1-one | 44.6 mmol, 5.0 g, 1.1 eq. | COC1=CC(CC1)=O | C6H8O2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-naphthalen-2-yl-cyclopent-2-enone | C1=C(C=CC2=CC=CC=C12)C1=CC(CC1)=O | C15H12O
